US09403823B2
Step 1: General protocol for the preparation of 3-cyano benzamide intermediates
3-Cyano-benzoic acid (1.2 eq), the amine derivative (1 eq), HOBt (1.2 eq), DIEA (1.2 eq) and EDCI.HCl (1.2 eq) were dissolved in dry DMF (0.15 M), under argon. The mixture was stirred at room temperature overnight. DMF is evaporated and saturated NaHCO3 solution was added. Product was extracted with EtOAc, dried over Na2SO4, filtered and evaporated. The crude was purified on reverse phase (H2O 1% TFA/MeCN 1% TFA 100/0, 0/100). MeCN was evaporated. The product was suspended in H2O and basified with saturated NaHCO3 solution until pH=8-9. The aqueous layer was extracted three times with AcOEt. The organic layer was evaporated to give the final compound.

reactant | 3-Cyano-benzoic acid | 1.2 eq | C(#N)C=1C=C(C(=O)O)C=CC1 | C8H5NO2
reactant | HOBt | 1.2 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 1.2 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI.HCl | 1.2 eq | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 0.15 M | CN(C)C=O | C3H7NO
product | 3-cyano benzamide | C(#N)C=1C=C(C(=O)N)C=CC1 | C8H6N2O
